US05925630
To a mixture of 2β-isopropoxy-3α-hydroxy-5α-androstan-17-one tosylhydrazone (300 mg), NaBH3CN (144 mg) and p-toluenesulfonic acid (30 mg) was added DMF and sulfolane (1:1, 3 mL) and the mixture obtained was heated to 110° C. for 3 h. Then additional amount of NaBH3CN (144 mg) and p-toluenesulfonic acid (30 mg) was added and it was heated for another hour. Water was then added and the mixture was extracted with EtOAc (2×45 mL). The combined extracts were dried over Na2SO4 and the crude product obtained by removal of the solvent was purified by flash chromatography over silica gel to yield the pure 2β-isopropoxy-3α-hydroxy-5α-androstane (37 mg); TLC Rf (EtOAc:hexane 1:9)=0.17.

reactant | 2β-isopropoxy-3α-hydroxy-5α-androstan-17-one tosylhydrazone | 300 mg | S(=O)(=O)(C1=CC=C(C)C=C1)NN=C1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]1CC2)OC(C)C)O | C29H44N2O4S
reactant | NaBH3CN | 144 mg | [BH3-]C#N.[Na+]
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sulfolane | 3 mL | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | NaBH3CN | 144 mg | [BH3-]C#N.[Na+]
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2β-isopropoxy-3α-hydroxy-5α-androstane | 37 mg | C(C)(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC[C@@]4(C)CC[C@@H]3[C@]2(C1)C)O | C22H38O2
